US05674886
6.67 Grams of potassium tert-butoxide was dissolved in 36 ml of anhydrous dimethylsulfoxide, and 5.00 g of 4-amino-4H-1,2,4-triazole was added thereto and the mixture was stirred for 15 minutes at room temperature. Subsequently, 9 ml of an anhydrous dimethylsulfoxide solution containing 3.23 g of 2-fluorobenzonitrile was added dropwise to the solution over a period of 10 minutes, and the mixture was stirred for further 15 minutes. The reaction mixture was poured into 90 ml of water and 90 g of ice, and the solution was then adjusted to have pH of 5.7 with 1N hydrochloric acid. The crystals precipitated out were collected by filtration and dried to give 2.64 g of 4-[(2-cyanophenyl)amino]-4H-1,2,4-triazole.

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 4-amino-4H-1,2,4-triazole | 5.00 g | NN1C=NN=C1 | C2H4N4
reactant | 2-fluorobenzonitrile | 3.23 g | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethylsulfoxide | 36 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 9 ml | CS(=O)C | C2H6OS
solvent | water | 90 ml | O | H2O
product | 4-[(2-cyanophenyl)amino]-4H-1,2,4-triazole | 2.64 g | C(#N)C1=C(C=CC=C1)NN1C=NN=C1 | C9H7N5
